US07544826B2
A mixture of 5 ml of water and 5 ml of concentrated hydrochloric acid was added to a solution of 1.717 g (5.7 mmol) of 3-hydroxy-2-methyl-3-phenyl-1-(8-quinolyl)cyclopentene in 100 ml of tetrahydrofuran. The mixture was stirred at room temperature for 90 minutes and ammonia solution was then added until a pH of 12 had been reached. The aqueous phase was then separated off from the organic phase and the aqueous phase was extracted twice with diethyl ether. The organic phases were combined, dried over magnesium sulfate, filtered and the solvent was distilled off. The residue obtained in this way was distilled at 157-170° C. and 2×10−2 mbar to give 1.12 g (3.95 mmol, 69.3%) of 2-methyl-3-phenyl-1-(8-quinolyl)cyclopentadiene.

reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | 3-hydroxy-2-methyl-3-phenyl-1-(8-quinolyl)cyclopentene | 5.7 mmol, 1.717 g | OC1(C(=C(CC1)C=1C=CC=C2C=CC=NC12)C)C1=CC=CC=C1 | C21H19NO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-phenyl-1-(8-quinolyl)cyclopentadiene | 3.95 mmol, 1.12 g, 69.3% | CC1=C(CC=C1C1=CC=CC=C1)C=1C=CC=C2C=CC=NC12 | C21H17N
